US05644059
Synthesis of t-butyl 2-[N-[2-(3-nitrobenzylidene)-3-oxobutanoyl]amino]acetate:
9.821 g (45.6 mmol) of t-butyl 2-[N-(3-oxobutanoyl)-amino]acetate and 6.891 g (45.6 mmol) of 3-nitrobenzaldehyde were suspended in 50 ml of isopropyl alcohol. With addition of 0.331 g (2.28 mmol) of piperidine acetate, the mixture was stirred for 15 hours. The above mixture was ice-cooled for one hour and the precipitated crystals were separated by filtration. The thus obtained crystals were washed with cooled isopropyl alcohol and dried under reduced pressure. The thus obtained crystals were recrystallized from acetonitrile, whereby 13.5 g (85%) of the captioned compound was obtianed.

reactant | t-butyl 2-[N-(3-oxobutanoyl)-amino]acetate | 45.6 mmol, 9.821 g | O=C(CC(=O)NCC(=O)OC(C)(C)C)C | C10H17NO4
reactant | 3-nitrobenzaldehyde | 45.6 mmol, 6.891 g | [N+](=O)([O-])C=1C=C(C=O)C=CC1 | C7H5NO3
reactant | piperidine acetate | 2.28 mmol, 0.331 g | C(C)(=O)O.N1CCCCC1
solvent | isopropyl alcohol | 50 ml | C(C)(C)O | C3H8O
product | t-butyl 2-[N-[2-(3-nitrobenzylidene)-3-oxobutanoyl]amino]acetate | [N+](=O)([O-])C=1C=C(C=C(C(=O)NCC(=O)OC(C)(C)C)C(C)=O)C=CC1 | C17H20N2O6
